US08877782B2
N-(1-Ethylcarbamoylmethyl-piperidin-3-yl)-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide
As described for example 8b, (3-{[6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine-3-carbonyl]-amino}-piperidin-1-yl)-acetic acid (70 mg, 0.16 mmol) instead of 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid was converted, using ethylamine (1 M in DMF) instead of methylamine, to the title compound (47 mg, 63%) which was obtained as an off white solid after trituration with water. MS: m/e=478.3 [M+H]+.

reactant | (3-{[6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine-3-carbonyl]-amino}-piperidin-1-yl)-acetic acid | 0.16 mmol, 70 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=CC=C(C=N1)C(=O)NC1CN(CCC1)CC(=O)O | C24H26N4O5
reactant | ethylamine | 1 M | C(C)N | C2H7N
solvent | water | O | H2O
product | N-(1-Ethylcarbamoylmethyl-piperidin-3-yl)-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinamide | 47 mg, 63% | C(C)NC(=O)CN1CC(CCC1)NC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC=CC=C1)=O | C26H31N5O4
